US07067517B2
Isopropyl-methyl-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol and 3-(isopropyl-methyl-carbamoyl)-1-methyl-3H-imidazol-1-ium iodide. The crude product was subjected to flash chromatography (ethyl acetate/heptane 1:5) (77%, white crystals). HPLC-MS m/z=355.1 (M+1), Rt: 4.80 min.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)O)(F)F | C12H8F3NO2
reactant | 3-(isopropyl-methyl-carbamoyl)-1-methyl-3H-imidazol-1-ium iodide | [I-].C(C)(C)N(C(=O)N1C=[N+](C=C1)C)C
solvent | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
product | Isopropyl-methyl-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(N(C)C(C)C)=O)(F)F | C17H17F3N2O3
